US07026326B2
2-[2-(Isopropylamino-methyl)-pyrrolidin-1-yl]-3-methyl-6-pyridin-4-yl-5-m-tolyl-3H-pyrimidin-4-one
To a 100 mL RBF, was added (R)-isopropyl-pyrrolidin-2-ylmethyl-amine (0.13 g, 0.6 mmol), and 50 mL dichloromethane at 0° C. under nitrogen. 0.28 mL diisopropylethylamine (1.6 mmol) was added drop wise, and stirred for 10 min. 2-Chloro-3-methyl-6-pyridin-4-yl-5-m-tolyl-3H-pyrimidin-4-one (0.16 g, 0.5 mmol) was added in one portion, and stirred at 0° C. to rt for 12 h. (This meta-methyl chloro-intermediate was synthesized by a similar procedure as that of 5-(3-Bromo-phenyl)-2-chloro-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one.) The mixture was diluted with 100 mL dichloromethane, washed with sat. NaHCO3 and brine. After purified by flash chromatography, the title compound was obtained in 0.219 g as pale yellow solid. MS (ES+): 418 (M+H)+.

reactant | (R)-isopropyl-pyrrolidin-2-ylmethyl-amine | 0.6 mmol, 0.13 g | C(C)(C)NC[C@@H]1NCCC1 | C8H18N2
reactant | diisopropylethylamine | 1.6 mmol, 0.28 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-Chloro-3-methyl-6-pyridin-4-yl-5-m-tolyl-3H-pyrimidin-4-one | 0.5 mmol, 0.16 g | ClC1=NC(=C(C(N1C)=O)C=1C=C(C=CC1)C)C1=CC=NC=C1 | C17H14ClN3O
reactant | 5-(3-Bromo-phenyl)-2-chloro-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one | BrC=1C=C(C=CC1)C=1C(N(C(=NC1C1=CC=NC=C1)Cl)C)=O | C16H11BrClN3O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-[2-(Isopropylamino-methyl)-pyrrolidin-1-yl]-3-methyl-6-pyridin-4-yl-5-m-tolyl-3H-pyrimidin-4-one | C(C)(C)NCC1N(CCC1)C1=NC(=C(C(N1C)=O)C=1C=C(C=CC1)C)C1=CC=NC=C1 | C25H31N5O
